US05124341
After 44 mg (1.1 mmol) of 60% sodium hydride was added to a solution of 0.14 g (1 mmol) of 5-(1-methylcyclopropyl)-1,3,4-oxadiazolin-2-one in 5 ml of N,N-dimethylformamide at room temperature, the mixture was stirred at the same temperature for 15 minutes. To the mixture was added 0.25 g (1 mmol) of 3,4,5-trichlorobenzotrifluoride followed by heating a 80° C. for 6 hours. After cooling, the mixture was poured into water and extracted with ethyl acetate. After drying over magnesium sulfate, the extract was concentrated under reduced pressure to give the crude product. The crude product was subjected to silica gel column chromatography to give 35 mg of 5-(1-methylcyclopropyl)-3-(2,6-dichloro-4-trifluoromethylphenyl)-1,3,4-oxadiazoline-2-one.

reactant | sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | 5-(1-methylcyclopropyl)-1,3,4-oxadiazolin-2-one | 1 mmol, 0.14 g | CC1(CC1)C1N=NC(O1)=O | C6H8N2O2
reactant | 3,4,5-trichlorobenzotrifluoride | 1 mmol, 0.25 g | ClC=1C=C(C=C(C1Cl)Cl)C(F)(F)F | C7H2Cl3F3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(1-methylcyclopropyl)-3-(2,6-dichloro-4-trifluoromethylphenyl)-1,3,4-oxadiazoline-2-one | 35 mg | CC1(CC1)C1=NN(C(O1)=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H9Cl2F3N2O2
